### PR TITLE
[Merged by Bors] - feat(MeasureTheory/BorelSpace): add `measurable_iSup_of_lowerSemicontinuous`

### PR DESCRIPTION
**Pull request by pitmonticone**
Add `measurable_biSup_of_continuousOn`: the supremum of a family of measurable functions parameterized by a separable pseudometric space is measurable, provided the family is continuous on the parameter set.

Upstreamed from the [Carleson](https://github.com/fpvandoorn/carleson) project.

Co-authored-by: Jeremy Tan Jie Rui <reddeloostw@gmail.com>

---

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 1]
```diff
@@ -655,6 +655,34 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
   · exact BorelSpace.measurable_eq.trans (borel_eq_generateFrom_Ioi _)
   · rintro _ ⟨x, rfl⟩; exact hf x
 
+/-- Given `T : Set ι` over a separable pseudometric space `ι`, let `f : ι → X → ℝ≥0∞` be
+* measurable in `x` for all `t ∈ T`
+* **continuous** on `T` for all `x`
+
+Then the supremum of `f` over `T` is measurable.
```
Comment (pitmonticone) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: Hmm, maybe I should remove these...

Comment (pitmonticone) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: Yes, let's do it.

**Comment by pitmonticone** [comment]
Yep, my bad. I've done a few of those by mistake. Already fixed in the latest commits. Sorry.

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 2]
```diff
@@ -655,6 +655,31 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+    [SecondCountableTopology β] [MeasurableSpace β] [BorelSpace β]
+    {ι : Type*} [TopologicalSpace ι] [SeparableSpace ι]
+    {f : ι → δ → β} (mf : ∀ t, Measurable (f t))
+    (cf : ∀ x, LowerSemicontinuous (f · x)) :
+    Measurable (⨆ i, f i) := by
+  refine measurable_of_Ioi fun c ↦ ?_
+  obtain ⟨J, cJ, dJ⟩ := TopologicalSpace.exists_countable_dense ι
+  suffices (⨆ i, f i) ⁻¹' Ioi c = ⋃ j ∈ J, {x | c < f j x} by
+    rw [this]
+    exact MeasurableSet.biUnion cJ fun j mj ↦ (measurableSet_lt measurable_const (mf j))
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]:
```suggestion
    exact MeasurableSet.biUnion cJ fun j mj ↦ measurableSet_lt measurable_const (mf j)
```
or even

```suggestion
    exact .biUnion cJ fun j mj ↦ measurableSet_lt measurable_const (mf j)
```

**Comment by EtienneC30** [comment]
maintainer delegate

**Comment by CoolRmal** [comment]
can you also prove the infimum version?

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: Or even

```suggestion
    exact MeasurableSet.biUnion cJ fun j mj ↦ by measurability
```

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 3]
```diff
@@ -655,6 +655,31 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+  simp_rw [iSup_apply, lt_iSup_iff]
+  constructor
+  · intro ⟨i, hi⟩
+    simp only [lowerSemicontinuous_iff] at cf
+    obtain ⟨v, hv⟩ := eventually_iff_exists_mem.1 (cf x i c hi)
+    have hj := dJ.inter_nhds_nonempty hv.1
+    exact ⟨hj.some, mem_of_mem_inter_left hj.some_mem,
+      hv.2 _ (mem_of_mem_inter_right hj.some_mem)⟩
+  · intro ⟨i, _, hi⟩
+    exact ⟨i, hi⟩
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]:
```suggestion
  · grind
```

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 4]
```diff
@@ -655,6 +655,31 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+  suffices (⨆ i, f i) ⁻¹' Ioi c = ⋃ j ∈ J, {x | c < f j x} by
+    rw [this]
+    exact MeasurableSet.biUnion cJ fun j mj ↦ (measurableSet_lt measurable_const (mf j))
+  ext x
+  push _ ∈ _
+  simp_rw [iSup_apply, lt_iSup_iff]
+  constructor
+  · intro ⟨i, hi⟩
+    simp only [lowerSemicontinuous_iff] at cf
+    obtain ⟨v, hv⟩ := eventually_iff_exists_mem.1 (cf x i c hi)
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: Slightly nicer:
```suggestion
    obtain ⟨v, hv, hv'⟩ := eventually_iff_exists_mem.1 (cf x i c hi)
```
(and adjusting the next lines accordingly)

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 5]
```diff
@@ -655,6 +655,31 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+    Measurable (⨆ i, f i) := by
+  refine measurable_of_Ioi fun c ↦ ?_
+  obtain ⟨J, cJ, dJ⟩ := TopologicalSpace.exists_countable_dense ι
+  suffices (⨆ i, f i) ⁻¹' Ioi c = ⋃ j ∈ J, {x | c < f j x} by
+    rw [this]
+    exact MeasurableSet.biUnion cJ fun j mj ↦ (measurableSet_lt measurable_const (mf j))
+  ext x
+  push _ ∈ _
+  simp_rw [iSup_apply, lt_iSup_iff]
+  constructor
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: In fact, with the lines below, you could make this `refine ⟨fun ⟨i, hi⟩ ↦ ?_, by grind⟩` (and refine the intro in the next branch).

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 6]
```diff
@@ -655,6 +655,31 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+  · intro ⟨i, hi⟩
+    simp only [lowerSemicontinuous_iff] at cf
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: You don't this, IIUC.
```suggestion
```

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 7]
```diff
@@ -655,6 +655,31 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
   · exact BorelSpace.measurable_eq.trans (borel_eq_generateFrom_Ioi _)
   · rintro _ ⟨x, rfl⟩; exact hf x
 
+lemma measurable_iSup_of_lowerSemicontinuous {β : Type*}
+    [TopologicalSpace β] [CompleteLinearOrder β] [OrderTopology β]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]: Can you re-use the existing variable `β`?

**Review by grunweg — COMMENTED** [review]
Some minor comments only

**Comment by grunweg** [comment]
... and I agree about the infimum version.

**Comment by pitmonticone** [comment]
Done

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 8]
```diff
@@ -655,6 +655,46 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+    rw [this]
+    exact .biUnion cJ fun j _ ↦ by measurability
+  ext x
+  push _ ∈ _
+  simp_rw [iInf_apply, iInf_lt_iff]
+  refine ⟨fun ⟨i, hi⟩ ↦ ?_, by grind⟩
+  obtain ⟨v, hv, hv'⟩ := eventually_iff_exists_mem.1 (cf x i c hi)
+  have hj := dJ.inter_nhds_nonempty hv
+  exact ⟨hj.some, mem_of_mem_inter_left hj.some_mem,
+    hv' _ (mem_of_mem_inter_right hj.some_mem)⟩
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean]:
```suggestion
lemma measurable_iInf_of_upperSemicontinuous [CompleteLinearOrder β] [OrderTopology β]
    [SecondCountableTopology β]
    {ι : Type*} [TopologicalSpace ι] [SeparableSpace ι]
    {f : ι → δ → β} (mf : ∀ t, Measurable (f t))
    (cf : ∀ x, UpperSemicontinuous (f · x)) :
    Measurable (⨅ i, f i) :=
   measurable_iSup_of_lowerSemicontinuous (β := βᵒᵈ) mf cf
```

I also tried the to_dual tactic but somehow it does not work. Maybe someone more familiar with that tactic can come up a better solution?

**Comment by grunweg** [comment]
Thanks!
bors merge

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean [hunk 9]
```diff
@@ -655,6 +655,34 @@ theorem measurable_of_Ioi {f : δ → α} (hf : ∀ x, MeasurableSet (f ⁻¹' I
...
+    rw [this]
+    exact .biUnion cJ fun j _ ↦ by measurability
+  ext x
+  push _ ∈ _
+  simp_rw [iSup_apply, lt_iSup_iff]
+  refine ⟨fun ⟨i, hi⟩ ↦ ?_, by grind⟩
+  obtain ⟨v, hv, hv'⟩ := eventually_iff_exists_mem.1 (cf x i c hi)
+  have hj := dJ.inter_nhds_nonempty hv
+  exact ⟨hj.some, mem_of_mem_inter_left hj.some_mem,
+    hv' _ (mem_of_mem_inter_right hj.some_mem)⟩
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean:676]: Here's an alternate way of proving this.
```
import Mathlib

open TopologicalSpace

variable {ι : Type*} [TopologicalSpace ι] 
variable {β : Type*} [CompleteLinearOrder β]

lemma Dense.biSup_eq' {f : ι → β} (cf : LowerSemicontinuous f) 
    {J : Set ι} (dJ : Dense J) : ⨆ j ∈ J, f j = ⨆ i, f i := by
  apply le_antisymm (iSup₂_le_iSup (f := f) _)
  by_contra!
  rw [lt_iSup_iff] at this
  obtain ⟨s, hsU, hsJ⟩ := dJ.inter_open_nonempty _ (cf.isOpen_preimage _) this
  exact hsU.not_ge (le_biSup f hsJ)

lemma measurable_iSup_of_lowerSemicontinuous' [SeparableSpace ι]
    [TopologicalSpace β] [OrderTopology β] [SecondCountableTopology β] 
    [MeasurableSpace β] [BorelSpace β] {δ : Type*} [MeasurableSpace δ]
    {f : ι → δ → β} (mf : ∀ t, Measurable (f t)) (cf : ∀ x, LowerSemicontinuous (f · x)) :
    Measurable (⨆ i, f i) := by
  obtain ⟨J, cJ, dJ⟩ := exists_countable_dense ι
  have : Measurable (fun b => ⨆ i ∈ J, f i b) := .biSup J cJ (by simp [mf])
  convert ← this using 2 with d
  rw [dJ.biSup_eq' (cf d), iSup_apply]
```
I think this is nicer, because it gives us the lemma `Dense.biSup_eq'`, to match mathlib's `Dense.ciSup'` and `Dense.ciSup` for the lower semicontinuous case. (Though perhaps the name could be changed).

Comment (grunweg) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Order.lean:676]: Thanks! Would you like to open a PR with this proof?
